US05977102
1,4-Diamino-2,6-dibromobenzene
3.0 g of 2,6-dibromo-4-nitroaniline are dissolved in 150 ml of ethanol, 150 ml of ethyl acetate and 30 ml of dimethylformamide and, after addition of 0.5 g of platinum on carbon (5%), hydrogenated under a pressure of 1.5 bar of hydrogen in a Parr apparatus at room temperature for 1 hour. Cooling is followed by filtration, the solvent is distilled off in a rotary evaporator, and the residue is purified by column chromatography.

reactant | 2,6-dibromo-4-nitroaniline | 3.0 g | BrC1=C(N)C(=CC(=C1)[N+](=O)[O-])Br | C6H4Br2N2O2
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | platinum on carbon | 0.5 g | [Pt] | Pt
product | 1,4-Diamino-2,6-dibromobenzene | NC1=C(C=C(C=C1Br)N)Br | C6H6Br2N2
